US08211908B2
To a solution of 0.33 g of (2-methoxy-7-oxopyrido(2,3-d)pyrimidin-8(7H)-yl)acetaldehyde in 15 mL of dichloromethane, a solution of 0.53 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(piperidin-4-yl)carbamate in 5.3 mL of dichloromethane, and 87 μL of acetic acid were added, and the mixture was stirred at room temperature for 1 hour 30 minutes. To the reaction mixture, 0.40 g of sodium triacetoxyborohydride was added, and the mixture was stirred for 2 hours 30 minutes. After leaving overnight, the mixture was stirred at room temperature for 4 hours. Chloroform and a saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using gradient elution with chloroform:methanol=50:1 to 10:1 to obtain 0.55 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(2-methoxy-7-oxopyrido(2,3-d)pyrimidin-8(7H)-yl)ethyl)piperidin-4-yl)carbamate as a light yellow foam.

reactant | (2-methoxy-7-oxopyrido(2,3-d)pyrimidin-8(7H)-yl)acetaldehyde | 0.33 g | COC=1N=CC2=C(N1)N(C(C=C2)=O)CC=O | C10H9N3O3
reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(piperidin-4-yl)carbamate | 0.53 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | sodium triacetoxyborohydride | 0.40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5.3 mL | ClCCl | CH2Cl2
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 87 μL | C(C)(=O)O | C2H4O2
product | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(2-methoxy-7-oxopyrido(2,3-d)pyrimidin-8(7H)-yl)ethyl)piperidin-4-yl)carbamate | 0.55 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=C2N=C(N=C1)OC)=O | C28H36N6O6
